US08053438B2
To a glass microwave vial was added 2-fluoro-3-iodopyrazine (1.6485 g, 7.36 mmol), 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (2.319 g, 11.04 mmol), trans-dichlorobis(triphenylphosphine) palladium (II) (0.413 g, 0.589 mmol), and sodium carbonate (3.90 g, 36.8 mmol) in DME (19.63 mL) and water (4.91 mL) to stir at 80° C. overnight. Reaction was allowed to cool to room temperature. The reaction mixture was diluted with water and extracted with DCM. The organic extract was washed with water, brine, dried with magnesium sulfate, filtered, and concentrated. The crude product was adsorbed onto a plug of silica gel and chromatographed through a Biotage pre-packed silica gel column (40S), eluting with a gradient of 10% to 100% EtOAc in hexane, to provide 2-(3,6-dihydro-2H-pyran-4-yl)-3-fluoropyrazine. [M+H]=181.1.

reactant | 2-fluoro-3-iodopyrazine | 7.36 mmol, 1.6485 g | FC1=NC=CN=C1I | C4H2FIN2
reactant | 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 11.04 mmol, 2.319 g | O1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C11H19BO3
reactant | sodium carbonate | 36.8 mmol, 3.90 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 19.63 mL | COCCOC | C4H10O2
solvent | water | 4.91 mL | O | H2O
product | 2-(3,6-dihydro-2H-pyran-4-yl)-3-fluoropyrazine | O1CCC(=CC1)C1=NC=CN=C1F | C9H9FN2O
